US04918215
The 4-chloroformylcinnamonitrile can be prepared as follows: 10.05 g (50 mmols) of 4-bromobenzoic acid, 3.31 g (62.5 mmols) of acrylonitrile, 12.6 g (125 mmols) of triethylamine, 0.112 g (0.5 mmol) of palladium acetate, 0.608 g (2 mmols) of tri-o-tolylphosphine and 20 ml of toluene are boiled under reflux for 6 hours. The reaction mixture is extracted by shaking with 100 ml of 2N hydrochloric acid and the crude product is filtered off and recrystallised from methanol. 3 g (35% of theory) of 4-carboxycinnamonitrile are obtained in the form of pale yellow crystals; melting point 281° C.

reactant | 4-chloroformylcinnamonitrile | ClC(=O)C1=CC=C(C=CC#N)C=C1 | C10H6ClNO
reactant | 4-bromobenzoic acid | 50 mmols, 10.05 g | BrC1=CC=C(C(=O)O)C=C1 | C7H5BrO2
reactant | acrylonitrile | 62.5 mmols, 3.31 g | C(C=C)#N | C3H3N
reactant | triethylamine | 125 mmols, 12.6 g | C(C)N(CC)CC | C6H15N
reactant | tri-o-tolylphosphine | 2 mmols, 0.608 g | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
catalyst | palladium acetate | 0.5 mmol, 0.112 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 4-carboxycinnamonitrile | 3 g, 35% | C(=O)(O)C1=CC=C(C=CC#N)C=C1 | C10H7NO2
